US09108939B2
D: 1-(2-Amino-2-methylpropyl)-3-(2-fluoro-4-((1-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)methyl)phenyl)urea
A solution of 2-(4-((4-(4-amino-3-fluorobenzyl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (0.861 mmol, 0.4 g) and 4-nitrophenyl carbonochloridate (0.861 mmol, 0.174 g) in tetrahydrofuran (5 mL) was stirred at room temperature for 30 minutes. 2-Methylpropane-1,2-diamine (1.723 mmol, 0.152 g) was added, followed by triethylamine (2.58 mmol, 0.360 mL, 0.261 g) and the reaction stirred at room temperature overnight. The reaction mixture was concentrated under vacuum. The residue was purified by prep-HPLC (acidic conditions) and SCX chromatography to afford the title compound (45.3 mg). MS (ESI) m/z 579.2 [M+H]+

reactant | 2-(4-((4-(4-amino-3-fluorobenzyl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 0.861 mmol, 0.4 g | NC1=C(C=C(CC2CCN(CC2)CC2=CC=C(C=C2)C(C(F)(F)F)(C(F)(F)F)O)C=C1)F | C22H23F7N2O
reactant | 4-nitrophenyl carbonochloridate | 0.861 mmol, 0.174 g | C(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)Cl | C7H4ClNO4
reactant | 2-Methylpropane-1,2-diamine | 1.723 mmol, 0.152 g | CC(CN)(C)N | C4H12N2
reactant | triethylamine | 2.58 mmol, 0.360 mL, 0.261 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 1-(2-Amino-2-methylpropyl)-3-(2-fluoro-4-((1-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)methyl)phenyl)urea | 45.3 mg | NC(CNC(=O)NC1=C(C=C(C=C1)CC1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)F)(C)C | C27H33F7N4O2
